US05225601
4-Formylbenzyl 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl ether
15.5 ml (19.7 mmol) of diisobutylaluminum hydride solution (20% in hexane) were added dropwise under nitrogen to a solution of 3 g (9.4 mmol) of 4-cyanobenzyl 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl ether in 40 ml of dry ether at 25° C. The mixture was stirred at 25° C. for 40 min and then 250 ml of saturated tartaric acid solution were added dropwise. Subsequently, a little sodium sulfate solution was added, and the phases were separated. The aqueous phase was extracted with ether, and the organic extract was washed with saturated tartaric acid solution and water, dried over Na2SO4 and concentrated. Recrystallization from methanol resulted in 1.4 g of the title compound of melting point 102°-104° C.

reactant | diisobutylaluminum hydride | 19.7 mmol, 15.5 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 4-cyanobenzyl 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl ether | 9.4 mmol, 3 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)OCC1=CC=C(C=C1)C#N)C | C22H25NO
reactant | tartaric acid | 250 ml | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | ether | 40 ml | CCOCC | C4H10O
product | 4-Formylbenzyl 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthyl ether | 1.4 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)OCC1=CC=C(C=C1)C=O)C | C22H26O2
